US05547952
Example 10 2-(3,5-Di-tert.-butyl-4-hydroxybenzylidene)-3,4-dihydro-3-oxo-4-sulfomethyl-2H-1,4-benzothiazine (compound No. 10-1)
To a suspension of sodium hydride (60% suspension in paraffin liquid, 0.042 g) in dimethylformaldehyde (1 ml), 2-(3, 5-di-tert.-butyl-4-hydroxybenzylidene)-3,4-dihydro-3-oxo-2H-1,4-benzothiazine (0.20 g) dissolved in dimethylformalhyde (2 ml) was added, dropwise, under ice-cooling and a nitrogen atmosphere. The mixture was stirred for 40 minutes at room temperature. To the mixture, potassium (chloro)methanesulfonate (0,096 g) dissolved in dimethylformaldehyde (2 ml) was added, dropwise, and the mixture was stirred for one day at room temperature. 1N hydrochloric acid was added to the mixture and the whole was extracted with ethyl acetate. The organic layer was washed with saturated sodium chloride solution, dried over anhydrous sodium sulfate and concentrated in vacuo. The oily residue was purified by silica gel column chromatography to give the titled compound.

reactant | sodium hydride | 0.042 g | [H-].[Na+]
reactant | 2-(3, 5-di-tert.-butyl-4-hydroxybenzylidene)-3,4-dihydro-3-oxo-2H-1,4-benzothiazine | 0.20 g | C(C)(C)(C)C=1C=C(C=C2SC3=C(NC2=O)C=CC=C3)C=C(C1O)C(C)(C)C | C23H27NO2S
reactant | potassium (chloro)methanesulfonate | 0,096 g | ClCS(=O)(=O)[O-].[K+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | dimethylformaldehyde | 1 ml | CC(=O)C | C3H6O
solvent | dimethylformaldehyde | 2 ml | CC(=O)C | C3H6O
product | 2-(3,5-Di-tert.-butyl-4-hydroxybenzylidene)-3,4-dihydro-3-oxo-4-sulfomethyl-2H-1,4-benzothiazine | C(C)(C)(C)C=1C=C(C=C2SC3=C(N(C2=O)CS(=O)(=O)O)C=CC=C3)C=C(C1O)C(C)(C)C | C24H29NO5S2
